### PR TITLE
feat: Hilbert space & unbounded operators on Space

### PR DESCRIPTION
**Pull request by gloges**
Initial progress for single-particle QM on `Space d`, addressing #851.

`SpaceDHilbertSpace` and `SchwartzSubmodule` carry over from 1d with only minor changes (cf. [OneDimension/HilbertSpace](https://github.com/lean-phys-community/PhysLean/tree/master/PhysLean/QuantumMechanics/OneDimension/HilbertSpace)).
`UnboundedOperator` is defined using [LinearPMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/LinearPMap.html) with additional density and closability hypotheses. Nothing in `UnboundedOperator` depends on the particular Hilbert space and can be easily generalized in the future.

A few sorries remain to be filled in; two I think I can do after understanding how to work with [InnerProductSpace/PiL2](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/PiL2.html).

### CODE REVIEW

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 1]
```diff
@@ -0,0 +1,207 @@
...
+-/
+
+namespace QuantumMechanics
+
+noncomputable section
+
+open LinearPMap
+
+-- Nothing here uses any specific properties of this particular Hilbert space
+abbrev hilbSp d := SpaceDHilbertSpace d
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Why do we need this abbreviation? If it is down to not wanting to write SpaceDHilbertSpace I think we should probably aim for notation

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 2]
```diff
@@ -0,0 +1,207 @@
...
+  · rwa [UnboundedOperator.ext_iff, adjoint_toLinearPMap]
+
+lemma adjoint_isClosed : (U†).IsClosed := LinearPMap.adjoint_isClosed U.dense_domain
+
+/-
+TODO: Rework below using `PiLp 2` (see [https://leanprover-community.github.io/mathlib4_docs/Mathlib/Analysis/InnerProductSpace/PiL2.html])
+so that `hilbSp × hilbSp` has the structure of an inner product space.
+-/
+
+abbrev hilbSp2 (d : ℕ) := hilbSp d × hilbSp d
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Do you mean the tensor product here? If not maybe we could add a doc for why this is needed

**Review by jstoobysmith — COMMENTED** [review]
Many thanks for this PR

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 1 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Just a temporary abbreviation - all instances of SpaceDHilbertSpace are now removed for unbounded operators.

**Comment by gloges** [comment]
Still more to do (e.g. products, x,p,L instances), but I think this is a good break point now that everything is sorry free.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 3]
```diff
@@ -0,0 +1,315 @@
...
+
+noncomputable section
+
+open LinearPMap Submodule
+
+/-- An `UnboundedOperator` is a linear map from a submodule of the Hilbert space
+  to the Hilbert space, assumed to be both densely defined and closable. -/
+@[ext]
+structure UnboundedOperator
+    (HS : Type) [NormedAddCommGroup HS] [InnerProductSpace ℂ HS] [CompleteSpace HS] where
```
Comment (jstoobysmith) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: I think `structure ... extends (LinearPMap ℂ HS HS)` would be better if you could get something like this to work

Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Make sense! Just a few minor fixes were needed after making this change.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 4]
```diff
@@ -0,0 +1,317 @@
...
+
+noncomputable section
+
+open LinearPMap Submodule
+
+/-- An `UnboundedOperator` is a linear map from a submodule of the Hilbert space
+  to the Hilbert space, assumed to be both densely defined and closable. -/
+@[ext]
+structure UnboundedOperator
+    (HS : Type) [NormedAddCommGroup HS] [InnerProductSpace ℂ HS] [CompleteSpace HS]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
    (HS : Type*) [NormedAddCommGroup HS] [InnerProductSpace ℂ HS] [CompleteSpace HS]
```
Using Type* is nice for technical reasons related to universes

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 5]
```diff
@@ -0,0 +1,317 @@
...
+    extends LinearPMap ℂ HS HS where
+  /-- The domain of an unbounded operator is dense in the Hilbert space. -/
+  dense_domain : Dense (domain : Set HS)
+  /-- An unbounded operator is closable. -/
+  is_closable : toLinearPMap.IsClosable
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:43]: I think this isn't necessary since dense_domain and CompleteSpace should guarantee this condition

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 6]
```diff
@@ -0,0 +1,317 @@
...
+
+namespace UnboundedOperator
+
+variable
+  {HS : Type} [NormedAddCommGroup HS] [InnerProductSpace ℂ HS] [CompleteSpace HS]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
  {HS : Type*} [NormedAddCommGroup HS] [InnerProductSpace ℂ HS] [CompleteSpace HS]
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 7]
```diff
@@ -0,0 +1,317 @@
...
+  (F : Submodule ℂ (HS × HS))
+
+/-- `UnboundedOperator` as a function. -/
+@[coe]
+def toFun' : U.domain → HS := U.toLinearPMap.toFun
+
+instance : CoeFun (UnboundedOperator HS)
+  (fun U : UnboundedOperator HS ↦ U.domain → HS) := ⟨toFun'⟩
+
+lemma ext' (U T : UnboundedOperator HS) : U.toLinearPMap = T.toLinearPMap → U = T := by
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: [ext] attribute should auto-generate this lemma and the one below.

Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
lemma ext' (U T : UnboundedOperator HS) (h : U.toLinearPMap = T.toLinearPMap) : U = T := by
```
I think this lemma will be removed but in general it's best practice to collect hypotheses on the left of the colon.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 8]
```diff
@@ -0,0 +1,317 @@
...
+
+lemma closure_toLinearPMap : U.closure.toLinearPMap = U.toLinearPMap.closure := rfl
+
+/-- An unbounded operator is closed iff the graph of its defining LinearPMap is closed. -/
+def IsClosed : Prop := U.toLinearPMap.IsClosed
+
+lemma closure_isClosed : U.closure.IsClosed := IsClosable.closure_isClosed U.is_closable
+
+/-!
+### Submodules of `HS × HS`
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Not sure what this has to do with unbounded operators so maybe move to a better location?

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 9]
```diff
@@ -0,0 +1,317 @@
...
+  carrier := {x | x.ofLp ∈ F}
+  add_mem' := by
+    intro a b ha hb
+    exact Submodule.add_mem F ha hb
+  zero_mem' := Submodule.zero_mem F
+  smul_mem' := by
+    intro c x hx
+    exact Submodule.smul_mem F c hx
+
+omit [CompleteSpace HS] in
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Having several lemmas using omit is usually an indication that you should restructure the code

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 10]
```diff
@@ -0,0 +1,317 @@
...
+lemma mem_submodule_iff_mem_submoduleToLp :
+    ∀ f, f ∈ F ↔ (WithLp.toLp 2 f) ∈ submoduleToLp F := fun _ => Eq.to_iff rfl
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
lemma mem_submodule_iff_mem_submoduleToLp (f : F) :
    f ∈ F ↔ (WithLp.toLp 2 f) ∈ submoduleToLp F := Eq.to_iff rfl
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 11]
```diff
@@ -0,0 +1,317 @@
...
+  /-- An unbounded operator is closable. -/
+  is_closable : toLinearPMap.IsClosable
+
+namespace UnboundedOperator
+
+variable
+  {HS : Type} [NormedAddCommGroup HS] [InnerProductSpace ℂ HS] [CompleteSpace HS]
+  (U : UnboundedOperator HS)
+  {E : Submodule ℂ HS} {hE : Dense (E : Set HS)}
+  (F : Submodule ℂ (HS × HS))
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: I would move these variable declaration down to the sections they get used in so it's easier to read

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 12]
```diff
@@ -0,0 +1,317 @@
...
+  smul_mem' := by
+    intro c x hx
+    exact Submodule.smul_mem F c hx
+
+omit [CompleteSpace HS] in
+lemma mem_submodule_iff_mem_submoduleToLp :
+    ∀ f, f ∈ F ↔ (WithLp.toLp 2 f) ∈ submoduleToLp F := fun _ => Eq.to_iff rfl
+
+omit [CompleteSpace HS] in
+lemma submoduleToLp_closure : (submoduleToLp F.closure) = (submoduleToLp F).topologicalClosure := by
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: I wonder if there is potential to golf (simplify) this lemma. If you want help looking at that I can try taking a look too.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 13]
```diff
@@ -0,0 +1,317 @@
...
+      exact ContinuousAt.eventually_mem (by fun_prop) (IsOpen.mem_nhds ht1' hx)
+    rcases this with ⟨t2, ht2, ht2'⟩
+    rcases h t2 ht2 with ⟨w, hw⟩
+    use w.ofLp
+    exact ⟨Set.mem_preimage.mp (ht1 (ht2' w hw.1)), (mem_toAddSubgroup (submoduleToLp F)).mp hw.2⟩
+
+omit [CompleteSpace HS] in
+lemma mem_submodule_closure_iff_mem_submoduleToLp_closure :
+    ∀ f, f ∈ F.topologicalClosure ↔ (WithLp.toLp 2 f) ∈ (submoduleToLp F).topologicalClosure := by
+  intro f
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
lemma mem_submodule_closure_iff_mem_submoduleToLp_closure (f : F) :
    f ∈ F.topologicalClosure ↔ (WithLp.toLp 2 f) ∈ (submoduleToLp F).topologicalClosure := by
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 14]
```diff
@@ -0,0 +1,317 @@
...
+  rw [← submoduleToLp_closure]
+  rfl
+
+omit [CompleteSpace HS] in
+lemma mem_submodule_adjoint_iff_mem_submoduleToLp_orthogonal :
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Same as above

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 15]
```diff
@@ -0,0 +1,317 @@
...
+    intro a b hab
+    rw [mem_orthogonal] at h
+    have hab' := (mem_submodule_iff_mem_submoduleToLp F (a, b)).mp hab
+    have h' : inner ℂ a f.2 = inner ℂ b f.1 := by
+      rw [← sub_eq_zero, sub_eq_add_neg, ← inner_neg_right]
+      exact h (WithLp.toLp 2 (a, b)) hab'
+    simp [h']
+
+omit [CompleteSpace HS] in
+lemma mem_submodule_adjoint_adjoint_iff_mem_submoduleToLp_orthogonal_orthogonal :
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Same as above

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 16]
```diff
@@ -0,0 +1,317 @@
...
+      rw [sub_eq_add_neg, ← inner_neg_left]
+      apply h (WithLp.toLp 2 (b, -a))
+      intro w hw
+      have hw' := h' w.fst w.snd hw
+      rw [sub_eq_zero] at hw'
+      simp [hw']
+  simp only [← mem_orthogonal]
+
+omit [CompleteSpace HS] in
+lemma mem_submodule_closure_adjoint_iff_mem_submoduleToLp_closure_orthogonal :
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Same as above

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 17]
```diff
@@ -0,0 +1,317 @@
...
+  simp [← ClosedSubmodule.mem_toSubmodule_iff]
+
+/-!
+### Adjoints
+-/
+
+/-- The adjoint of an unbounded operator, denoted as `U†`. -/
+def adjoint : UnboundedOperator HS where
+  toLinearPMap := U.toLinearPMap.adjoint
+  dense_domain := by
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: I would say this proof should be a theorem on LinearPMap (probably in Mathlib) and then apply the theorem here.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 18]
```diff
@@ -0,0 +1,317 @@
...
+        exact Ne.symm (ne_of_mem_of_not_mem' trivial hy)
+      have hnebot : U.toLinearPMap†.domainᗮ ≠ ⊥ := by
+        by_contra
+        apply hnetop
+        rwa [orthogonal_eq_top_iff]
+      exact exists_mem_ne_zero_of_ne_bot hnebot
+    rcases this with ⟨x, hx, hx'⟩
+    apply hx'
+    apply graph_fst_eq_zero_snd U.toLinearPMap.closure _ rfl
+    rw [← IsClosable.graph_closure_eq_closure_graph U.is_closable]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Combine rw into single tactic

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 19]
```diff
@@ -0,0 +1,317 @@
...
+    exact mem_domain_of_mem_graph hy
+  is_closable := IsClosed.isClosable (adjoint_isClosed U.dense_domain)
+
+@[inherit_doc]
+scoped postfix:1024 "†" => UnboundedOperator.adjoint
+
+instance instStar : Star (UnboundedOperator HS) where
+  star := fun U ↦ U.adjoint
+
+lemma adjoint_toLinearPMap : U†.toLinearPMap = U.toLinearPMap† := rfl
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:151]:
```suggestion
@[simp]
lemma adjoint_toLinearPMap : U†.toLinearPMap = U.toLinearPMap† := rfl
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 20]
```diff
@@ -0,0 +1,317 @@
...
+### Closure
+-/
+
+/-- The closure of an unbounded operator. -/
+def closure : UnboundedOperator HS where
+  toLinearPMap := U.toLinearPMap.closure
+  dense_domain := Dense.mono (HasCore.le_domain (closureHasCore U.toLinearPMap)) U.dense_domain
+  is_closable := IsClosed.isClosable (IsClosable.closure_isClosed U.is_closable)
+
+lemma closure_toLinearPMap : U.closure.toLinearPMap = U.toLinearPMap.closure := rfl
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:93]:
```suggestion
@[simp]
lemma closure_toLinearPMap : U.closure.toLinearPMap = U.toLinearPMap.closure := rfl
```

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 21]
```diff
@@ -0,0 +1,317 @@
...
+  rw [orthogonal_closure]
+  exact Iff.symm (mem_submodule_adjoint_iff_mem_submoduleToLp_orthogonal _ _)
+
+lemma adjoint_adjoint_eq_closure : U†† = U.closure := by
+  -- Reduce to statement about graphs using density and closability assumptions
+  apply UnboundedOperator.ext'
+  apply LinearPMap.eq_of_eq_graph
+  rw [adjoint_toLinearPMap, adjoint_graph_eq_graph_adjoint U†.dense_domain]
+  rw [adjoint_toLinearPMap, adjoint_graph_eq_graph_adjoint U.dense_domain]
+  rw [closure_toLinearPMap, ← IsClosable.graph_closure_eq_closure_graph U.is_closable]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:178]: Should be able to make this a simp call for readability

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 22]
```diff
@@ -0,0 +1,317 @@
...
+
+  ext f
+  trans WithLp.toLp 2 f ∈ (submoduleToLp U.toLinearPMap.graph)ᗮᗮ
+  · exact mem_submodule_adjoint_adjoint_iff_mem_submoduleToLp_orthogonal_orthogonal _ _
+  rw [orthogonal_orthogonal_eq_closure]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Combine rw

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean [hunk 23]
```diff
@@ -0,0 +1,317 @@
...
+### Generalized eigenvectors
+-/
+
+/-- A map `F : D(U) →L[ℂ] ℂ` is a generalized eigenvector of an unbounded operator `U`
+  if there is an eigenvalue `c` such that for all `ψ ∈ D(U)`, `F (U ψ) = c ⬝ F ψ`. -/
+def IsGeneralizedEigenvector (F : U.domain →L[ℂ] ℂ) (c : ℂ) : Prop :=
+  ∀ ψ : U.domain, ∃ ψ' : U.domain, ψ' = U ψ ∧ F ψ' = c • F ψ
+
+lemma isGeneralizedEigenvector_ofSymmetric_iff
+    {f : E →ₗ[ℂ] E} {hf : f.IsSymmetric} (F : E →L[ℂ] ℂ) (c : ℂ) :
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]:
```suggestion
    {f : E →ₗ[ℂ] E} (hf : f.IsSymmetric) (F : E →L[ℂ] ℂ) (c : ℂ) :
```

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 24]
```diff
@@ -0,0 +1,151 @@
...
+def mk {f : Space d → ℂ} (hf : MemHS f) : SpaceDHilbertSpace d :=
+  ⟨AEEqFun.mk f hf.1, (aeEqFun_mk_mem_iff f hf.1).mpr hf⟩
+
+lemma coe_hilbertSpace_memHS (f : SpaceDHilbertSpace d) : MemHS (f : Space d → ℂ) := by
+  rw [← aeEqFun_mk_mem_iff f (Lp.aestronglyMeasurable f)]
+  have hf : f = AEEqFun.mk f (Lp.aestronglyMeasurable f) := (AEEqFun.mk_coeFn _).symm
+  exact hf ▸ f.2
+
+lemma mk_surjective (f : SpaceDHilbertSpace d) :
+    ∃ (g : Space d → ℂ), ∃ (hg : MemHS g), mk hg = f := by
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean]:
```suggestion
    ∃ (g : Space d → ℂ) (hg : MemHS g), mk hg = f := by
```

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 25]
```diff
@@ -0,0 +1,151 @@
...
+
+lemma mem_iff {f : Space d → ℂ} (hf : AEStronglyMeasurable f volume) :
+    AEEqFun.mk f hf ∈ SpaceDHilbertSpace d ↔ Integrable (fun x ↦ ‖f x‖ ^ 2) := by
+  rw [Lp.mem_Lp_iff_memLp, MemLp, eLpNorm_aeeqFun]
+
+  have h1 := AEEqFun.aestronglyMeasurable (AEEqFun.mk f hf)
+  have h2 : AEStronglyMeasurable (fun x ↦ norm (f x) ^ 2) :=
+    AEStronglyMeasurable.pow (continuous_norm.comp_aestronglyMeasurable hf) 2
+
+  simp only [h1, true_and, Integrable]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean]: Just put h1 directly here

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 26]
```diff
@@ -0,0 +1,151 @@
...
+  simp only [eLpNorm_lt_top_iff_lintegral_rpow_enorm_lt_top (NeZero.ne' 2).symm
+    (ENNReal.top_ne_ofNat).symm, ENNReal.toReal_ofNat, ENNReal.rpow_ofNat]
+  simp [h2, HasFiniteIntegral]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean]: Just put h2 directly here

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 27]
```diff
@@ -0,0 +1,151 @@
...
+
+lemma mk_add {f g : Space d → ℂ} {hf : MemHS f} {hg : MemHS g} :
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean:136]:
```suggestion
@[simp]
lemma mk_add {f g : Space d → ℂ} {hf : MemHS f} {hg : MemHS g} :
```

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 28]
```diff
@@ -0,0 +1,151 @@
...
+    mk (memHS_add hf hg) = mk hf + mk hg := rfl
+
+lemma mk_const_smul {f : Space d → ℂ} {c : ℂ} {hf : MemHS f} :
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean:140]:
```suggestion
@[simp]
lemma mk_const_smul {f : Space d → ℂ} {c : ℂ} {hf : MemHS f} :
```

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/SchwartzSubmodule.lean [hunk 29]
```diff
@@ -0,0 +1,51 @@
...
+
+lemma schwartzIncl_coe_ae {d : ℕ} (f : 𝓢(Space d, ℂ)) : f.1 =ᵐ[volume] (schwartzIncl f) :=
+  (coeFn_toLp f 2).symm
+
+lemma schwartzIncl_inner {d : ℕ} (f g : 𝓢(Space d, ℂ)) :
+    ⟪schwartzIncl f, schwartzIncl g⟫_ℂ = ∫ x : Space d, starRingEnd ℂ (f x) * g x := by
+  apply integral_congr_ae
+  have hf := schwartzIncl_coe_ae f
+  have hg := schwartzIncl_coe_ae g
+  filter_upwards [hf, hg] with _ hf hg
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/SchwartzSubmodule.lean]: Do we need to name hf and hg before this line?

File: PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/SchwartzSubmodule.lean [hunk 30]
```diff
@@ -0,0 +1,51 @@
...
+  rw [← hf, ← hg]
+  rw [RCLike.inner_apply, mul_comm]
```
Comment (morrison-daniel) [inline PhysLean/QuantumMechanics/DDimensions/SpaceDHilbertSpace/SchwartzSubmodule.lean]: Combine rw

**Review by morrison-daniel — COMMENTED** [review]
Since you mentioned being a beginner I added quite a few comments to help with style and structure, but really it is quite good work. Feel free to comment/DM on Zulip if you have questions!

**Comment by morrison-daniel** [comment]
Also, in general it is helpful for review to break up larger changes like this into multiple smaller PRs around 100-200 lines if you can. Don't worry about it for this one, but keep it in mind for the future.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 8 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: I've extracted the submodule lemmas to a separate file (fixing the "omit" issues in the process).

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 12 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: Thanks, there very well may be! It amounts to the topologies induced by the L2 and sup norm being the same in finite dimensions and could probably be simplified with more familiarity with how filters work in mathlib.

**Comment by gloges** [comment]
Thanks very much for the comprehensive feedback! I've extracted the submodule lemmas for getting the inner product structure onto the `LinearPMap` graphs into the Mathematics folder and done some clean-up on the `UnboundedOperator` file. I've kept `ext'` (and `ext_iff'`) as the autogenerated version is slightly different: `(x.domain = y.domain) → (x.toFun ≍ y.toFun) → x = y`.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 5 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:43]: Closability is required for the adjoint to be densely defined and thus also of type `UnboundedOperator` (cf. Schmüdgen Theorem 1.8.i).

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 21 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:178]: Changing these to simp didn't work; we need a bit more "control" to only move one of the two adjoints through `toLinearPMap` before applying the `adjoint_graph...` lemma.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 7 above)
Comment (gloges) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean]: The autogenerated ext lemma is `(x.domain = y.domain) → (x.toFun ≍ y.toFun) → x = y` and the [HEq docs](https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#HEq) say to avoid it, so I think this is worth keeping.

**Comment by jstoobysmith** [comment]
This looks good to me, but I think Daniel has now got a tighter control of this PR so will leave any final reviews to him.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 5 above)
Comment (morrison-daniel) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:43]: What I mean is that I believe on a HilbertSpace (or some other common setting) any densely defined linear map is closable and so we don't need this as a separate assumption. I say this because I often see the existence of a closure be implicitly assumed in some references. Perhaps we leave this as is for now and see under what conditions closability is guaranteed and consider a refactor later.

File: PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean (hunk 21 above)
Comment (morrison-daniel) [reply PhysLean/QuantumMechanics/DDimensions/Operators/Unbounded.lean:178]: Okay sounds good

**Review by morrison-daniel — DISMISSED** [review]

**Comment by morrison-daniel** [comment]
I manually removed a couple extraneous blank lines that (hopefully) won't break anything, will approve after that.

**Review by morrison-daniel — APPROVED** [review]

**Review by jstoobysmith — APPROVED** [review]
I’ve approved this aswell and will merge now
